US08114865B2
Step 2. N-[5-(3,5-Difluoro-benzenesulfonyl)-1-trityl-1H-indazol-3-yl]-4-(4-pyrrolidin-1-yl-piperidine-1-carbonyl)-benzamide [(XVII), R1=R2=R3=H, R=3,5-difluorophenyl, R11=1-triphenylmethyl, Ar=4-[(4-pyrrolidin-1-yl-piperidin-1-yl)carbonyl]-phenyl]
The crude N-[5-(3,5-difluoro-benzenesulfonyl)-1-trityl-1H-indazol-3-yl]-terephthalamic acid (0.56 mmol) was treated with dichloromethane (8 mL), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (140 mg, 1.3 eq), 1-hydroxybenzotriazole (98 mg, 1.3 eq) and 4-pyrrolidin-1-yl-piperidine (113 mg, 1.3 eq). The reaction mixture was stirred at room temperature overnight, diluted with dichloromethane, washed with brine and with a saturated solution of sodium hydrogenocarbonate, dried over sodium sulfate and evaporated to dryness affording the crude title compound that was used as such for the next step without further purification.

reactant | N-[5-(3,5-difluoro-benzenesulfonyl)-1-trityl-1H-indazol-3-yl]-terephthalamic acid | 0.56 mmol | FC=1C=C(C=C(C1)F)S(=O)(=O)C=1C=C2C(=NN(C2=CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(C1=CC=C(C(=O)O)C=C1)=O | C40H27F2N3O5S
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 140 mg, 1.3 eq | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 98 mg, 1.3 eq | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-pyrrolidin-1-yl-piperidine | 113 mg, 1.3 eq | N1(CCCC1)C1CCNCC1 | C9H18N2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | N-[5-(3,5-Difluoro-benzenesulfonyl)-1-trityl-1H-indazol-3-yl]-4-(4-pyrrolidin-1-yl-piperidine-1-carbonyl)-benzamide | FC=1C=C(C=C(C1)F)S(=O)(=O)C=1C=C2C(=NN(C2=CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(C1=CC=C(C=C1)C(=O)N1CCC(CC1)N1CCCC1)=O | C49H43F2N5O4S
